US07432266B2
A mixture of 3-ethyl-6-{1-[4-(methylsulfonyl)phenyl]-1H-pyrazol-5-yl}-1H-indazole (50 mg, 0.14 mmol), tris(dibenzylideneacetone)dipalladium(0) (10 mg, 0.01 mmol), 2-bromopyrimidine (26 mg, 0.16 mmol), 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (16 mg, 0.03 mmol), sodium tert-butoxide (19.7 mg, 0.21 mmol) and toluene (2.3 mL) was subjected to microwave irradiation (300 watts, 140° C.) for 300 seconds in a 10 mL sealed tube. The solvent was removed and the crude product absorbed onto silica gel. The residue was purified by column chromatography using as eluent 10% ethyl acetate in hexanes for 10 minutes, then a gradient to 50% ethyl acetate in hexanes at 20 minutes, then 50% for 5 minutes, then 100% at 35 minutes to provide 42 mg (70%) of 3-ethyl-6-{1-[4-(methylsulfonyl)phenyl]-1H-pyrazol-5-yl}-1-pyrimidin-2-yl-1H-indazole. LC/MS (EI) tR 3.82 (Method C), m/z 445.1 (M++1), 1H NMR (CDCl3) δ 1.5 (t, 3H); 3.0 (s, 3H); 3.1 (q, 2H); 6.6 (s, 1H); 7.1 (d, 2H); 7.6 (d, 2H); 7.7 (d, 1H); 7.8 (d, 1H); 7.9 (m, 2H); 8.7 (m, 3H).

reactant | 3-ethyl-6-{1-[4-(methylsulfonyl)phenyl]-1H-pyrazol-5-yl}-1H-indazole | 0.14 mmol, 50 mg | C(C)C1=NNC2=CC(=CC=C12)C1=CC=NN1C1=CC=C(C=C1)S(=O)(=O)C | C19H18N4O2S
reactant | 2-bromopyrimidine | 0.16 mmol, 26 mg | BrC1=NC=CC=N1 | C4H3BrN2
reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.03 mmol, 16 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | sodium tert-butoxide | 0.21 mmol, 19.7 mg | CC(C)([O-])C.[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.01 mmol, 10 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 2.3 mL | C1(=CC=CC=C1)C | C7H8
product | 3-ethyl-6-{1-[4-(methylsulfonyl)phenyl]-1H-pyrazol-5-yl}-1-pyrimidin-2-yl-1H-indazole | 42 mg, 70% | C(C)C1=NN(C2=CC(=CC=C12)C1=CC=NN1C1=CC=C(C=C1)S(=O)(=O)C)C1=NC=CC=N1 | C23H20N6O2S
